US05707994
(1) 5-(4-Cyanophenoxy)pentanoic acid ethyl ester
4-Cyanophenol (5.0 g) is dissolved in DMF (40 ml), and thereto are added ethyl 5-bromopentanoate (11.4 g) and potassium carbonate (6.38 g), and the mixture is stirred at room temperature for 24 hours. The reaction mixture is poured into water, and the mixture is extracted three times with ethyl acetate. The organic layer is washed successively with a saturated aqueous sodium hydrogen carbonate solution, water and a saturated brine, and dried over anhydrous magnesium sulfate. The desiccant is removed by filtration, and the filtrate is concentrated under reduced pressure. The residue is purified by silica gel column chromatography (silica gel; 100 g, solvent; hexane/ethyl acetate=5:1 to 5:2). The fractions containing the title compound are concentrated under reduced pressure to give the title compound (9.86 g).

reactant | 4-Cyanophenol | 5.0 g | C(#N)C1=CC=C(C=C1)O | C7H5NO
reactant | ethyl 5-bromopentanoate | 11.4 g | BrCCCCC(=O)OCC | C7H13BrO2
reactant | potassium carbonate | 6.38 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | O | H2O
solvent | DMF | 40 ml | CN(C)C=O | C3H7NO
product | 5-(4-Cyanophenoxy)pentanoic acid ethyl ester | 9.86 g | C(C)OC(CCCCOC1=CC=C(C=C1)C#N)=O | C14H17NO3
